US09056859B2
2-Fluoro-4-[2-(piperazin-1yl)ethyl]benzonitrile was prepared from 2-fluoro-4-(prop-2-en-1-yl)benzonitrile (described above) in an analogous fashion to that described for 2-methoxy-4-[2-(piperazin-1-yl)ethyl]benzonitrile.

reactant | 2-fluoro-4-(prop-2-en-1-yl)benzonitrile | FC1=C(C#N)C=CC(=C1)CC=C | C10H8FN
reactant | 2-methoxy-4-[2-(piperazin-1-yl)ethyl]benzonitrile | COC1=C(C#N)C=CC(=C1)CCN1CCNCC1 | C14H19N3O
product | 2-Fluoro-4-[2-(piperazin-1yl)ethyl]benzonitrile | FC1=C(C#N)C=CC(=C1)CCN1CCNCC1 | C13H16FN3
